Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ ___ speaking man with a history of
hypertension, BPH who presents for evaluation of syncope as well
as left greater than right lower extremity weakness that began 
at
about 2 AM on the night before admission. He says he woke from
sleeping to use the restroom and felt dizzy, as if he would 
fall.
He then fell to the floor, no head strike as there is no place 
to
hit in the bathroom. He does not recall the specifics of the
event but does not recall that he had any chest pain,
palpitations, shortness of breath or lightheadedness prior to 
the
event.  Nothing like this has ever happened to him before. He
also complained of mild right-sided headache and left greater
than right leg weakness since the syncopal event which resolved
while he was in the ED. He did feel unsteady on his feet, but no
falls. Describes intermittent dizziness as a lightheaded
sensation, no clear triggers, not as though the room is 
spinning.
He denies any recent infectious symptoms, fever, cough, 
abdominal
pain, vomiting, diarrhea or urinary symptoms.

- In the ED, initial vitals were:
97.9 88 148/84 18 100% RA

- Exam was notable for:
General- NAD
HEENT- PERRL, EOMI, normal oropharynx, no nystagmus
Lungs- Non-labored breathing, CTAB
CV- RRR, no murmurs, normal S1, S2, no S3/S4
Abd- Soft, nontender, nondistended, no guarding, rebound or
masses
Msk- No spine tenderness, moving all 4 extremities 
Neuro-A&O x3, CN ___ intact, 4 out of 5 strength in the left
lower extremity, otherwise normal strength and sensation, normal
speech and gait, no dysmetria, negative Romberg.
Ext- No edema, cyanosis, or clubbing

- Labs were notable for:

      13.2
5.1 > ----- < 141
     39.0

140 | 104 | 20
----------------< 205
3.8 | 23  | 1.1

Ca: 9.1 Mg: 2.1 P: 1.8

___: 12.3 
PTT: 27.3 
INR: 1.1 
UA negative

Trop-T: <0.01 

- Studies were notable for:
+ EKG
brady rates 47, RBBB (will compare to prior), prolonged PR, no 
ST
segment changes (on my read)

+ CXR
In comparison with the study ___, the cardiac
silhouette remains at the upper limits of normal or mildly
enlarged and there is again tortuosity of the descending 
thoracic
aorta. There is engorgement of ill defined pulmonary vessels,
consistent with the development pulmonary vascular congestion. 
No
acute focal consolidation.

+ CTA H&N:
No acute intracranial hemorrhage or 1territorial infarction.

CTA head and neck:
There is no high-grade stenosis, occlusion, or aneurysmal
dilatation of the major vessels of the head and neck.

Imaged lung apices show no concerning parenchymal opacification
or nodularity. The thyroid gland is without dominant nodule.

- The patient was given:
2 L LR

- Neurology was consulted:
unable to r/o cardiac vs central cause, recommend CT/CTA to r/o
structural. recommend orthostatic BPs, EKG, CT/CTA

On arrival to the floor, the patient endorses the above history.
A phone interpreter was used. He reports that he takes his
metoprolol in the morning every day and terazosin each night,
does not miss or take any extra doses. He denies chest pain, 
SOB.
Says that the headache is resolved, but that the weakness in his
left arm and leg persist. Otherwise, he has no complaints. He
would like to go home.

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
HTN
PAD
BPH
 
Social History:
___
Family History:
no family history of stroke or heart disease that he knows of
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: 
HR: 57 BP: 152/83 RR: 16 SpO2: 98
General: Awake, cooperative, NAD. ___ speaking only
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: cta bilaterally 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.
Neuro: CN II-XII grossly in tact. ___ strength in BLE and BUE,
DTR 2+ at biceps, DP, ___

DISCHARGE PHYSICAL EXAM:
========================
PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1113)
    Temp: 98.2 (Tm 98.3), BP: 130/80 (124-155/67-80), HR: 78
(52-78), RR: 18 (___), O2 sat: 97% (94-97), O2 delivery: RA,
Wt: 179.01 lb/81.2 kg   
General: Awake, cooperative, NAD. ___ speaking only
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: cta bilaterally 
Cardiac: warm and well perfused, rrr, soft systolic murmur
appreciated
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.
Neuro: CN II-XII grossly in tact. ___ strength in BLE and BUE,
DTR 2+ at biceps, DP, ___

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:58PM BLOOD WBC-5.1 RBC-4.23* Hgb-13.2* Hct-39.0* 
MCV-92 MCH-31.2 MCHC-33.8 RDW-12.6 RDWSD-42.1 Plt ___
___ 12:58PM BLOOD Neuts-64.6 ___ Monos-6.8 Eos-1.2 
Baso-0.6 Im ___ AbsNeut-3.30 AbsLymp-1.36 AbsMono-0.35 
AbsEos-0.06 AbsBaso-0.03
___ 12:58PM BLOOD ___ PTT-27.3 ___
___ 12:58PM BLOOD Glucose-205* UreaN-20 Creat-1.1 Na-140 
K-3.8 Cl-104 HCO3-23 AnGap-13
___ 06:45AM BLOOD ALT-22 AST-20 AlkPhos-45 TotBili-0.8
___ 06:45AM BLOOD cTropnT-<0.01 proBNP-262*
___ 12:58PM BLOOD Calcium-9.1 Phos-1.8* Mg-2.1

RELEVANT INTERVAL LABS:
=======================
___ 06:45AM BLOOD %HbA1c-6.5* eAG-140*

DISCHARGE LABS:
===============
___ 06:14AM BLOOD WBC-5.2 RBC-4.08* Hgb-12.7* Hct-38.2* 
MCV-94 MCH-31.1 MCHC-33.2 RDW-12.8 RDWSD-43.8 Plt ___
___ 06:45AM BLOOD ___ PTT-29.2 ___
___ 06:14AM BLOOD Glucose-112* UreaN-20 Creat-1.1 Na-143 
K-4.0 Cl-106 HCO3-25 AnGap-12
___ 06:14AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.0

MICROBIOLOGY:
=============
___ 1:38 pm URINE

   URINE CULTURE (Preliminary): 
      KLEBSIELLA PNEUMONIAE.    10,000-100,000 CFU/mL. 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------                2 S
CEFTAZIDIME-----------    16 I        4 S
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------     2 I   <=0.25 S
GENTAMICIN------------   <=1 S        2 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----    16 S        8 S
TOBRAMYCIN------------     8 I      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

REPORTS:
=============
___ CXR: 
In comparison with the study ___, the cardiac 
silhouette remains at
the upper limits of normal or mildly enlarged and there is again 
tortuosity of
the descending thoracic aorta.  There is engorgement of ill 
defined pulmonary
vessels, consistent with the development pulmonary vascular 
congestion.  No
acute focal consolidation.
 
___ CTA Head/Neck:
1. No acute infarction, hemorrhage, mass or midline shift.
2. Patent circle of ___ without evidence of 
stenosis,occlusion,or aneurysm.
3. Severe focal stenosis of the right vertebral artery at the 
level of the
right C2 transverse foramen secondary to degenerative changes.
4. Otherwise patent bilateral cervical carotid and vertebral 
arteries without
evidence of stenosis, occlusion, or dissection.
5. Paranasal sinus disease as above.
6. Significant periodontal disease.

___ Discharge ECG:
Sinus bradycardia left axis deviation qw 1, L Left anterior 
hemiblock/fascicular block Left ventricular hypertrophy with QRS 
widening and/or Nonspecific intraventricular conduction delay

___ TTE:
LVEF 65%. Mildly dilated thoracic aorta. Symmetric left 
ventricular hypertrophy with
normal cavity size and regional/global biventricular systolic 
function. Mild aortic regurgitation. Mild pulmonary artery 
systolic hypertension. No structural cardiac cause of syncope 
identified.

 
Brief Hospital Course:
BRIEF HOSPITAL SUMMARY:
======================
Mr. ___ is a ___ ___ speaking male with a history 
of hypertension and peripheral artery disease who presented with 
an episode of loss of consciousness, leg weakness and 
lightheadedness after micturition which lasted a few minutes and 
improved with fluids in the ED. He had a CT and CTA of the head 
and neck which were negative for any acute stroke and he was 
admitted for further work-up of syncopal episode. His metoprolol 
and terazosin was stopped as these may have contributed to his 
fall. He remained sinus bradycardia on telemetry throughout the 
course of his stay particularly sleeping, however he was able to 
walk around without any issues had appropriate heart rate 
response. He had a transthoracic echo which did not show any 
structural causes of syncope. He was seen by neurology who did 
not have a high suspicion of stroke or TIA, however they 
recommended an MRI of the brain, but he did not tolerate the MRI 
due to anxiety. It was decided to defer this to the outpatient 
setting where he will follow up with neurology.

TRANSITIONAL ISSUES:
======================
[] New-onset diabetes HbA1c 6.5%. Would recommend follow-up with 
PCP.
[] Consider starting lisinopril if needed for blood pressure 
control in lieu of HCTZ given diabetes. 
[] Follow-up with neurology regarding weakness. 
[] Consider MRI brain as an outpatient if patient is agreeable 
to evaluate for MRI. 
[] Continue to counsel patient on counterpressure maneuvers 
which may help prevent further reflex syncope
[] a follow-up echocardiogram is suggested in ___ year to evaluate 
aortic dilation. 

ACUTE/ACTIVE ISSUES:
======================
#Micturition syncope
Patient presented with syncopal event in the setting of 
urination, likely exacerbated by effect of metoprolol and 
terazosin. He had no evidence of heart block on EKG and his TTE 
did not show any evidence of structural disease of syncope. His 
medications were adjusted to hold his metoprolol as this is not 
an effective blood pressure medication may contribute to syncope 
in the first place as he was in sinus bradycardia on telemetry 
throughout his hospital stay, and his terazosin was switched to 
tamsulosin to minimize orthostatic hypotension. 

#Left leg weakness
Patient presented with some left leg weakness which had been 
persisting for a few days however on exam he did not have any 
appreciable differences in leg strength. CTA and CT of the head 
were negative for acute stroke. He was seen by neurology who had 
a low suspicion for TIA and recommended MRI, however patient was 
unable to tolerate MRI due to anxiety. Further discussion with 
neurology they were okay with deferring MRI to the outpatient 
setting, and they will follow-up as an outpatient.

#New onset type 2 diabetes
Patient found to have a hemoglobin A1c of 6.5%. He should 
follow-up with his PCP regarding further management and was 
found to have 300 mg/dL's of glucose in his urine. He also had a 
estimated average glucose of 140.

CHRONIC/STABLE ISSUES:
======================
#Hypertension 
Patient has history of hypertension for which he was prescribed 
metoprolol 200 mg XL daily. This was held on admission due to 
his low heart rates he maintained an acceptable blood pressure 
throughout his hospitalization. If needed patient to be started 
on an ACE inhibitor ___ as a first-line antihypertensive 
given new onset diabetes 

#BPH
Patient was previously on terazosin, however this was held and 
replaced with tamsulosin upon discharge.

# CODE: Full confirmed
# CONTACT: ___ ___ - DAUGHTER))
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 200 mg PO DAILY 
2. Terazosin 5 mg PO QHS 

 
Discharge Medications:
1.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*0 
2. HELD- Metoprolol Succinate XL 200 mg PO DAILY  This 
medication was held. Do not restart Metoprolol Succinate XL 
until you talk to your doctor. It was stopped because your heart 
rate was low causing you to faint.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
===================
Micturition syncope
Sinus bradycardia
Type 2 diabetes mellitus

Secondary diagnoses:
====================
Hypertension
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

WHY WAS I ADMITTED TO THE HOSPITAL?
====================================
You were admitted to the hospital because you fainted.

WHAT HAPPENED TO ME WHILE I WAS IN THE HOSPITAL?
================================================
We monitored your heart for abnormal rhythms.  They did an 
ultrasound of the heart to look for reasons why you might have 
fainted.  We spoke to our neurology colleagues who will follow 
you up in the outpatient setting. We adjusted several of your 
medications to limit the amount of dizziness. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
===========================================
Please take all your medications as directed
Please follow-up with your doctors as ___
If you feel lightheaded, dizzy, weak, have palpitations, or feel 
chest pain or shortness of breath please call your doctor or 
come back to the hospital.

Thank you for allowing us to be involved in your care, we wish 
you all the best! 

Your ___ Healthcare Team 
 
Followup Instructions:
___